US04215195
Pyridine (16 g, 0.2 mole) was added dropwise at 0° C. to a solution of 2-aminoethyl methacrylate hydrochloride (33 g, 0.2 mole) and diketene (16.8 g, 0.2 mole) in N,N-dimethylformamide (600 ml). After the addition, the solution was stirred at 20° C. for 20 hours. The solvent was then removed at low vacuum. The residue was dissolved in chloroform (1200 ml), washed with water (twice with 200 ml), dried over anhydrous magnesium sulfate and filtered. Excess solvent was then removed. Distillation of the residue gave acetoacetamidoethyl methacrylate (b.p.=113°-132° C./5μ) at a yield of 60%.

reactant | Pyridine | 0.2 mole, 16 g | N1=CC=CC=C1 | C5H5N
reactant | 2-aminoethyl methacrylate hydrochloride | 0.2 mole, 33 g | Cl.C(C(=C)C)(=O)OCCN
reactant | diketene | 0.2 mole, 16.8 g | C=C1CC(=O)O1 | C4H4O2
solvent | N,N-dimethylformamide | 600 ml | CN(C=O)C | C3H7NO
product | acetoacetamidoethyl methacrylate | yield of 60% | C(C(=C)C)(=O)OCCNC(CC(=O)C)=O | C10H15NO4
